US08026257B2
(±)-7-(1-((4-(4-Fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-1H-indazole-5-carbonitrile.
To a suspension of (±)-5-cyclopropyl-7-(1-((4-(4-fluorophenyl)piperidin-4-yl)methoxy)ethyl)-1H-indazole (21.8 mg, 0.055 mmol) and sodium cyanoborohydride (17.4 mg, 0.277 mmol) in acetonitrile (1 mL) at 0° C. was added formalin (0.041 mL). The reaction was treated with 1 drop of acetic acid. After 5 min, a second drop of acetic acid was added. The ice bath was removed and stirring continued for another hour. The reaction was diluted with diethyl ether and washed with 1 M sodium hydroxide. The ethereal was concentrated and loaded onto a strong cation exchange cartridge in methanol. The cartridge was flushed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol and concentrated. It was then purified by preparative HPLC to give 7.8 mg (55.7%). LC/MS (HPLC method 3): tR=1.742 min, 393.07(MH)+.

reactant | (±)-5-cyclopropyl-7-(1-((4-(4-fluorophenyl)piperidin-4-yl)methoxy)ethyl)-1H-indazole | 0.055 mmol, 21.8 mg | C1(CC1)C=1C=C2C=NNC2=C(C1)C(C)OCC1(CCNCC1)C1=CC=C(C=C1)F | C24H28FN3O
reactant | sodium cyanoborohydride | 0.277 mmol, 17.4 mg | C(#N)[BH3-].[Na+]
reactant | formalin | 0.041 mL | C=O | CH2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | (±)-7-(1-((4-(4-Fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-1H-indazole-5-carbonitrile | FC1=CC=C(C=C1)C1(CCN(CC1)C)COC(C)C=1C=C(C=C2C=NNC12)C#N | C23H25FN4O
